US04167641
The acid chloride of 1-triacontanoic acid is converted to the ester by adding methanol or ethanol and stirring for 1/2 to 1 hour. The alcohol was evaporated on a rotary evaporator leaving ethyl-1-triacontanoate. The ester is then reacted in a pressure vessel under about 250 atmospheres of hydrogen in the presence of a powdered copper chromite catalyst for about 12 hours at 250° C. to produce 1-triacontanol. One part of catalyst is present for every 5 to 10 parts of ester.

reactant | 1-triacontanoic acid | C(CCCCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C30H60O2
reactant | methanol | CO | CH4O
reactant | ethanol | C(C)O | C2H6O
product | ethyl-1-triacontanoate | C(C)OC(CCCCCCCCCCCCCCCCCCCCCCCCCCCCC)=O | C32H64O2
